US07868017B2
4-Chlorobenzo[b]thiophen-7-ol
4-Bromo-7-methoxybenzo[b]thiophene (prepared as described in J. Chem. Soc. (Perkin Trans I), 1983, 2973-2977) (1.2 g, 4.96 mmol) and pyridine hydrochloride (1.95 g, 16.87 mmol) was heated at 210° C. in a microwave for 15 min. The mixture was partitioned between HCl (aq.) (20 mL) and EtOAc (20 mL). The aqueous phase was washed with additional EtOAc (3×20 mL) and the organic phase was dried (Na2SO4) and concentrated in vacuo. The product was purified by chromatography on silica gel with EtOAc:heptane (1:10 to 1:5, v/v) as eluent to give the title compound as a red oil (372 mg, 41%).

reactant | 4-Bromo-7-methoxybenzo[b]thiophene | 4.96 mmol, 1.2 g | BrC1=CC=C(C=2SC=CC21)OC | C9H7BrOS
reactant | pyridine hydrochloride | 16.87 mmol, 1.95 g | Cl.N1=CC=CC=C1
product | 4-Chlorobenzo[b]thiophen-7-ol | 372 mg, 41% | ClC1=CC=C(C=2SC=CC21)O | C8H5ClOS
